US08957205B2
1-[[(4-Phenyl-1-piperazinyl)carbonyl]amino]cyclohexanecarboxylic acid phenylmethyl ester
A solution of 366 mg (3 mmol) of N,N-dimethylaminopyridine and 6.99 g (30 mmol) of 1-aminocyclohexanecarboxylic acid phenylmethyl ester in methylene chloride was added to a solution of 6.55 g (30 mmol) of di-t-butyl dicarbonate in 150 ml of methylene chloride, and the mixture was stirred at room temperature for 30 minutes. Thereafter, a solution of 6.07 mg (60 mmol) of triethylamine and 5.11 g (33 mmol) of 1-phenylpiperazine in methylene chloride was added thereto, and the mixture was stirred at room temperature overnight. The reaction solution was concentrated, ethyl acetate was added thereto, and the mixture was successively washed with water, a saturated aqueous sodium hydrogencarbonate solution and saturated brine, followed by drying with anhydrous sodium sulfate. After the solvent was distilled off under reduced pressure, the obtained crystal was washed with diethyl ether to give 8.88 g (70%) of the title compound.

reactant | 1-aminocyclohexanecarboxylic acid phenylmethyl ester | 30 mmol, 6.99 g | C1(=CC=CC=C1)COC(=O)C1(CCCCC1)N | C14H19NO2
reactant | di-t-butyl dicarbonate | 30 mmol, 6.55 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 60 mmol, 6.07 mg | C(C)N(CC)CC | C6H15N
reactant | 1-phenylpiperazine | 33 mmol, 5.11 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 1-[[(4-Phenyl-1-piperazinyl)carbonyl]amino]cyclohexanecarboxylic acid phenylmethyl ester | 8.88 g, 70% | C1(=CC=CC=C1)COC(=O)C1(CCCCC1)NC(=O)N1CCN(CC1)C1=CC=CC=C1 | C25H31N3O3
